US05929085
(c) 1,2,3,5,10,10a-Hexahydropyrrolo[1,2-b]isoquinolin-7-amine hydrochloride
To a suspension of 7-nitro-1,2,3,5,10,10a-hexahydropyrrolo[1,2-b]isoquinoline hydrochloride (2.14 g, 8.40 mmol) in methanol (150 ml) was added 10% Pd/C (0.2 g) and the reaction mixture was hydrogenated at 50 psi for 2 h. The solution was filtered and the catalyst was washed with water to dissolve some precipitated product. The filtrate was concentrated and absolute ethanol was used to help evaporate the excess water. The resulting solid was dissolved in hot ethanol (50 ml) and ether was added to precipitate the product. This solid was collected to give the title compound (1.90 g, 100%) as an amorphous, off-white solid, MS 189 (M+H)+ ; NMR (DMSO-NaOD) 6.82 (d, 1H), 6.44 (d, 1H), 6.35 (s, 1H), 4.03 (d, 1H), 3.19 (broad s, 1H), 2.84 (d, 1H), 2.5-3.0 (m, 3H), 2.11 (broad s 1H), 2.7-2.9 (m, 2H), 1.52 (m, 1H).

reactant | 7-nitro-1,2,3,5,10,10a-hexahydropyrrolo[1,2-b]isoquinoline hydrochloride | 8.40 mmol, 2.14 g | Cl.[N+](=O)([O-])C=1C=CC=2CC3N(CC2C1)CCC3
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 1,2,3,5,10,10a-Hexahydropyrrolo[1,2-b]isoquinolin-7-amine hydrochloride | 1.90 g, 100% | Cl.C1CCN2CC=3C=C(C=CC3CC21)N | InChI=1S/C12H16N2.ClH/c13-11-4-3-9-7-12-2-1-5-14(12)8-10(9)6-11;/h3-4,6,12H,1-2,5,7-8,13H2;1H
